US08563575B2
NaH (1.260 g) was added to a solution of 3-[4-(benzyloxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (5 g) and 2-iodopropane (3.15 ml) in DMF (50 ml) at room temperature. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) for 1 h. The reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 0%-50% EtOAc in hexane) to give 3-[4-(benzyloxy)phenyl]-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.5 g) as dark yellow oil.

reactant | NaH | 1.260 g | [H-].[Na+]
reactant | 3-[4-(benzyloxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=CC2)=O | C19H15N3O2
reactant | 2-iodopropane | 3.15 ml | IC(C)C | C3H7I
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-[4-(benzyloxy)phenyl]-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 1.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)C(C)C)=O | C22H21N3O2
